US08003785B2
A mixture of 0.10 g (0.30 mmole) 2-chloro-9-cyclohexyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-246), 0.086 g (0.45 mmole) of toluenesulfonic acid monohydrate, 0.075 g (0.30 mmole) of 4-amino-N-(1-ethyl-piperidin-4-yl)-benzamide and 1 mL of isopropanol was heated in a sealed vessel at 170 degrees in a microwave reactor for 2 hours, cooled and concentrated under reduced pressure. The residue taken up in ethyl acetate and washed successively with 50 mL of saturated aqueous sodium bicarbonate, 50 mL of water, 50 mL of brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from acetonitrile to give 0.115 g of 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethyl-piperidin-4-yl)-benzamide (I-261).

reactant | 2-chloro-9-cyclohexyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.30 mmole, 0.10 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCCC2)N1 | C14H17ClF2N4O
reactant | toluenesulfonic acid monohydrate | 0.45 mmole, 0.086 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | 4-amino-N-(1-ethyl-piperidin-4-yl)-benzamide | 0.30 mmole, 0.075 g | NC1=CC=C(C(=O)NC2CCN(CC2)CC)C=C1 | C14H21N3O
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethyl-piperidin-4-yl)-benzamide | 0.115 g | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C(=O)NC1CCN(CC1)CC)C=C2 | C28H37F2N7O2
